US04312870
The mixture of 10.0 g of 2-(p-chlorophenyl)-pyrazolo-[4,3-c]quinolin-3(5H)-one, 1.8 g of 50% sodium hydride in mineral oil and 250 ml of 1,2-dimethoxyethane is stirred at 100° until dissolution. It is cooled to room temperature and 15.0 g of 3-dimethylaminopropyl chloride in 10 ml of 1,2-dimethoxyethane are added. The mixture is stirred at 150° overnight, cooled, the supernatant solution decanted off and the residue treated with said solvent, to yield the 5-(3-dimethylaminopropyl)-2-(p-chlorophenyl)-pyrazolo-[4-3-c]quinolin-3-one melting at 189°-191°. Similarly the 5-(2-dimethylaminoethyl)-analog is obtained, m.p. 184°-186°.

reactant | 2-(p-chlorophenyl)-pyrazolo-[4,3-c]quinolin-3(5H)-one | 10.0 g | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C16H10ClN3O
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 15.0 g | CN(CCCCl)C | C5H12ClN
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
product | 5-(3-dimethylaminopropyl)-2-(p-chlorophenyl)-pyrazolo-[4-3-c]quinolin-3-one | CN(CCCN1C=C2C(C=3C=CC=CC13)=NN(C2=O)C2=CC=C(C=C2)Cl)C | C21H21ClN4O
